US07982071B2
Coupling of 1-bromo-3-(cyclohexylmethoxy)-5-fluorobenzene with N-allyl-2,2,2-trifluoroacetamide following the method used in Example 10 except DMF was used as solvent gave (E)-N-(3-(3-(cyclohexylmethoxy)-5-fluorophenyl)allyl)-2,2,2-trifluoroacetamide as a white solid. Yield (0.44 g, 64%): 1H NMR (400 MHz, DMSO-d6) 1H NMR (400 MHz, CDCl3) δ 9.68 (t, J=4.0 Hz, 1H), 6.79-6.86 (m, 2H), 6.65 (dt, J=10.8, 2.0 Hz, 1H), 6.45 (d, J=15.6 Hz, 1H), 6.31 (dt, J=16.0, 5.6 Hz, 1H), 3.95 (t, J=4.8 Hz, 2H), 3.77 (d, J=5.6 Hz, 2H), 1.58-1.80 (m, 6H), 1.10-1.28 (m, 3H), 0.90-1.06 (m, 2H).

reactant | 1-bromo-3-(cyclohexylmethoxy)-5-fluorobenzene | BrC1=CC(=CC(=C1)F)OCC1CCCCC1 | C13H16BrFO
reactant | N-allyl-2,2,2-trifluoroacetamide | C(C=C)NC(C(F)(F)F)=O | C5H6F3NO
solvent | DMF | CN(C)C=O | C3H7NO
product | (E)-N-(3-(3-(cyclohexylmethoxy)-5-fluorophenyl)allyl)-2,2,2-trifluoroacetamide | C1(CCCCC1)COC=1C=C(C=C(C1)F)/C=C/CNC(C(F)(F)F)=O | C18H21F4NO2
